US08003806B2
(a) Ethyl 3-{5-[(4-aminobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate
To a solution of ethyl 3-{5-[(4-nitrobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate (297 mg, 648 μmol) in a mixture of ethanol and water (4:1, 10 mL), was added palladium on carbon (60 mg, 10% w/w Pd) and ammonium formate (245 mg, 3.89 mmol). The resulting suspension was heated to reflux for 2 hours, and was then cooled to room temperature, and filtered through a pad of Celite®. The filtrate was evaporated to dryness, to afford the crude title compound, which was used directly without further purification, [LCMS (Method A, Mobile Phase I) RT=4.04 min, MH+ 430].

reactant | ethyl 3-{5-[(4-nitrobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate | 648 μmol, 297 mg | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC3=C(N(C=N3)C(CC(=O)OCC)C3=CC=CC=C3)C=C2)C=C1 | C25H22N4O5
reactant | ammonium formate | 3.89 mmol, 245 mg | C(=O)[O-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
catalyst | palladium on carbon | 60 mg | [Pd] | Pd
product | Ethyl 3-{5-[(4-aminobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate | NC1=CC=C(C(=O)NC2=CC3=C(N(C=N3)C(CC(=O)OCC)C3=CC=CC=C3)C=C2)C=C1 | C25H24N4O3
